US09120749B2
1-(6-bromo-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinolin-3-yl)propan-1-one
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one (800 mg, 2.68 mmol) was reacted with trans-N1,N1-dimethylcyclohexane-1,4-diamine dihydrochloride (692 mg, 3.21 mmol) to afford the desired product (629 mg, 58%) as an off-white solid. 1H NMR (300 MHz, CDCl3) δ 10.77 (br d, J=8.1 Hz, 1H), 9.01 (s, 1H), 8.27 (d, J=2.0 Hz, 1H), 7.84-7.68 (m, 2H), 4.05-3.89 (m, 1H), 3.08 (q, J=7.2 Hz, 2H), 2.33 (s, 6H), 2.33-2.23 (m, 2H), 2.12-1.99 (m, 2H), 1.63-1.31 (m, 4H), 1.25 (t, J=7.2 Hz, 3H).

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one | 2.68 mmol, 800 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)Cl | C12H9BrClNO
reactant | trans-N1,N1-dimethylcyclohexane-1,4-diamine dihydrochloride | 3.21 mmol, 692 mg | Cl.Cl.CN([C@@H]1CC[C@H](CC1)N)C
product | 1-(6-bromo-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinolin-3-yl)propan-1-one | 629 mg, 58% | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)N[C@@H]1CC[C@H](CC1)N(C)C | C20H26BrN3O
